US05399291
20 g of the 6-ethoxy-2,2,3,3,4,4,5,5-octafluorohexanol made above was dissolved in 20 g of methylene chloride. The resulting solution was placed in a flask fitted with a magnetic stirrer, thermomether, and addition funnel. 7.3 g of triethylamine was added to the flask, causing the temperature of the mixture to rise to 40° C. The flask was cooled to 5° C. in an ice bath, and then 61.5 g of trifluoromethanesulfonic anhydride was added slowly so that the temperature of the contents did not exceed 10° C. The reaction mixture was allowed to stir overnight with warming to room temperature. 20 ml of deionized water and 20 ml of methylene chloride were added, then the mixture was mixed and allowed to phase split. The resulting lower product phase was then washed sequentially with 20 ml of 3% aqueous HCl and 20 ml of deionized water. The methylene chloride was then stripped off at atmospheric pressure. The product residue was distilled at a head temperature range of 87-90° C. at 2.5 mm Hg (2.5 torr) pressure. A total of 20.1 g of 6-ethoxy-2,2,3,3,4,4,5,5-octafluorohexyl trifluoromethanesulfonate was obtained.

reactant | 6-ethoxy-2,2,3,3,4,4,5,5-octafluorohexanol | 20 g | C(C)OCC(C(C(C(CO)(F)F)(F)F)(F)F)(F)F | C8H10F8O2
reactant | triethylamine | 7.3 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 61.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 20 g | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-ethoxy-2,2,3,3,4,4,5,5-octafluorohexyl trifluoromethanesulfonate | 20.1 g | FC(S(=O)(=O)OCC(C(C(C(COCC)(F)F)(F)F)(F)F)(F)F)(F)F | C9H9F11O4S
